US09284315B2
(1) Preparation of ethyl 6-chloro-4-((4-(2-cyanopropan-2-yl)phenyl)amino)-1,5-naphthyridine-3-carboxylate
Ethyl 4,6-dichloro-1,5-naphthyridine-3-carboxylate (6.4 g, 23.6 mmol) and 2-(4-aminophenyl)-2-methylpropionitrile (5.6 g, 35 mmol) were dissolved in tert-butanol (200 mL), to the system added potassium carbonate (16.4 g, 119 mmol), and the reaction mixture was stirred under reflux for 2 h. After confirming a disappearance of the raw materials by a thin layer chromatography plate (ethyl acetate:petroleum ether=1:3), the reaction mixture was suction filtered, the filtrate was concentrated under reduced pressure, and the resulting residue was washed with diethyl ether to give 8.1 g of a pale yellow solid.

reactant | Ethyl 4,6-dichloro-1,5-naphthyridine-3-carboxylate | 23.6 mmol, 6.4 g | ClC1=C(C=NC2=CC=C(N=C12)Cl)C(=O)OCC | C11H8Cl2N2O2
reactant | 2-(4-aminophenyl)-2-methylpropionitrile | 35 mmol, 5.6 g | NC1=CC=C(C=C1)C(C#N)(C)C | C10H12N2
reactant | potassium carbonate | 119 mmol, 16.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tert-butanol | 200 mL | C(C)(C)(C)O | C4H10O
product | ethyl 6-chloro-4-((4-(2-cyanopropan-2-yl)phenyl)amino)-1,5-naphthyridine-3-carboxylate | 8.1 g | ClC=1N=C2C(=C(C=NC2=CC1)C(=O)OCC)NC1=CC=C(C=C1)C(C)(C)C#N | C21H19ClN4O2
